US05556977
A solution of RS 3-vinylbutyrolactone (3.5 g) and sodium acetate (2.56 g) in methanol (30 ml) was kept for 20 hours. Solvent was evaporated and the residue was partitioned between water and ether. The aqueous layer was extracted twice more with ether and the extracts combined, filtered through phase separating paper and evaporated. The residue was purified by filtration chromatography on silica gel (Merck 7736) starting with 1/9 ethyl acetate/hexane and progressing to 4/6 ethyl acetate/hexane as eluent to give methyl 4-hydroxy-3-vinylbutyrate as an oil; NMR(CDCl3) δ5.73(1H,m), 5.15(2H,m), 3.68(3H,s), 3.60(2H,t), 2.76(1H,m), 2.48(2H,m), 1.69(1H,t); m/e 145(M+H)+.

reactant | 3-vinylbutyrolactone | 3.5 g | C(=C)C1CC(=O)OC1 | C6H8O2
reactant | sodium acetate | 2.56 g | C(C)(=O)[O-].[Na+]
reactant | methanol | 30 ml | CO | CH4O
product | methyl 4-hydroxy-3-vinylbutyrate | OCC(CC(=O)OC)C=C | C7H12O3
